US07790747B2
Using general procedure E, 4-benzylamino-piperidine-1-carboxylic acid tert-butyl ester (300 mg, 1.03 mmol) and cyclohexylacetic acid (161 mg, 1.13 mmol) afforded 4-[benzyl-(2-cyclohexyl-acetyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (360 mg, 85%).

reactant | 4-benzylamino-piperidine-1-carboxylic acid tert-butyl ester | 1.03 mmol, 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=CC=CC=C1 | C17H26N2O2
reactant | cyclohexylacetic acid | 1.13 mmol, 161 mg | C1(CCCCC1)CC(=O)O | C8H14O2
product | 4-[benzyl-(2-cyclohexyl-acetyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 360 mg, 85% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(CC1CCCCC1)=O)CC1=CC=CC=C1 | C25H38N2O3
